US09290511B2
2,4-Bis(methylsulphonyl)-5-phenyl-furo[2,3-d]-pyrimidine (400 mg, 1.14 mmol) in acetonitrile (10.0 mL) was treated with 4-(2-pyrrolidine-1-ylethyloxymethyl)piperidine (360 mg, 1.7 mmol) and potassium carbonate (219 mg, 1.71 mmol) and heated in a microwave at 120° C. for 30 min. The reaction was concentrated in vacuum to a gum and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated, dried over sodium sulphate and concentrated in vacuum to a gum. The gum was purified by preparative HPLC (basic method 6) to yield methylsulfonyl-5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]furo[2,3-d]pyrimidine (96 mg, 0.198 mmol, 17%). 1H NMR (CDCl3) δ: 1.07 (2H, m), 1.52 (2H, br d, J=8 Hz), 1.75 (5H, br s), 2.5 (4H, b s), 2.6 (2H, t, J=5 Hz), 2.8 (2H, t, J=8 Hz), 3.18 (2H, d, J=4 Hz), 3.35 (3H, s), 3.5 (2H, t, J=4 Hz), 4.05 (2H, d, J=8 Hz), 7.4 (5H, m), 7.6 (1H, s).

reactant | 2,4-Bis(methylsulphonyl)-5-phenyl-furo[2,3-d]-pyrimidine | 1.14 mmol, 400 mg | CS(=O)(=O)C=1N=C(C2=C(N1)OC=C2C2=CC=CC=C2)S(=O)(=O)C | C14H12N2O5S2
reactant | 4-(2-pyrrolidine-1-ylethyloxymethyl)piperidine | 1.7 mmol, 360 mg | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
reactant | potassium carbonate | 1.71 mmol, 219 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | methylsulfonyl-5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]furo[2,3-d]pyrimidine | 0.198 mmol, 96 mg, 17% | CS(=O)(=O)C=1N=C(C2=C(N1)OC=C2C2=CC=CC=C2)N2CCC(CC2)COCCN2CCCC2 | C25H32N4O4S
